** sch_path: /foss/designs/CHIP-PLL/schematics/misc/level_shifter_tb.sch
**.subckt level_shifter_tb
x1 vph out vp in GND level_shifter
V1 vp GND {Vp}
V2 vph GND {Vph}
C1 out GND 1p
Vco in GND dc 0 ac 0 pulse(1u {Vp} 0 10p 10p {T/2} {T})
**** begin user architecture code
 .lib cornerMOSlv.lib mos_tt



.temp=25
.param T = 6.67n
.param Vp=1.2
.param Vph=3.3
.control
save all

tran 0.5n 100n

meas tran VOUT_MAX MAX v(out) from=75n to=100n

meas tran VOUT_AVG AVG v(out) from=75n to=100n


plot v(VOUT_MAX) v(VOUT_AVG)
write level_shifter.raw
.endc


 .lib cornerMOShv.lib mos_tt

**** end user architecture code
**.ends

* expanding   symbol:  level_shifter.sym # of pins=5
** sym_path: /foss/designs/CHIP-PLL/schematics/misc/level_shifter.sym
** sch_path: /foss/designs/CHIP-PLL/schematics/misc/level_shifter.sch
.subckt level_shifter vph out vpl in gd
*.ipin in
*.opin out
*.ipin gd
*.ipin vph
*.ipin vpl
XM1 1_stage_out in vpl vpl sg13_lv_pmos w=2u l=0.45u ng=1 m=1 mm_ok=1
XM3 1_stage_out in net1 gd sg13_lv_nmos w=1u l=0.45u ng=1 m=1 mm_ok=1
XM4 net1 in gd gd sg13_lv_nmos w=1u l=0.45u ng=1 m=1 mm_ok=1
XM2 2_stage_out 1_stage_out vpl vpl sg13_lv_pmos w=2u l=0.45u ng=1 m=1 mm_ok=1
XM5 2_stage_out 1_stage_out net4 gd sg13_lv_nmos w=1u l=0.45u ng=1 m=1 mm_ok=1
XM6 net4 1_stage_out gd gd sg13_lv_nmos w=1u l=0.45u ng=1 m=1 mm_ok=1
XM7 net2 3_stage_out vph vph sg13_hv_pmos w=1u l=0.45u ng=1 m=1 mm_ok=1
XM8 3_stage_out 2_stage_out gd gd sg13_hv_nmos w=4u l=0.45u ng=1 m=1 mm_ok=1
XM9 4 1_stage_out net2 vph sg13_hv_pmos w=1u l=0.45u ng=1 m=1 mm_ok=1
XM10 3_stage_out 2_stage_out net3 vph sg13_hv_pmos w=2u l=0.45u ng=1 m=1 mm_ok=1
XM11 net3 4 vph vph sg13_hv_pmos w=2u l=0.45u ng=1 m=1 mm_ok=1
XM12 4 1_stage_out gd gd sg13_hv_nmos w=2u l=0.45u ng=1 m=1 mm_ok=1
XM15 buf_out_1 3_stage_out vph vph sg13_hv_pmos w=2u l=0.45u ng=1 m=1 mm_ok=1
XM14 buf_out_1 3_stage_out net5 gd sg13_hv_nmos w=1u l=0.45u ng=1 m=1 mm_ok=1
XM13 net5 3_stage_out gd gd sg13_hv_nmos w=1u l=0.45u ng=1 m=1 mm_ok=1
XM16 buf_out_2 buf_out_1 vph vph sg13_hv_pmos w=4u l=0.45u ng=1 m=2 mm_ok=1
XM17 buf_out_2 buf_out_1 net6 gd sg13_hv_nmos w=2u l=0.45u ng=1 m=2 mm_ok=1
XM18 net6 buf_out_1 gd gd sg13_hv_nmos w=2u l=0.45u ng=1 m=2 mm_ok=1
XM19 out buf_out_2 vph vph sg13_hv_pmos w=4u l=0.45u ng=1 m=8 mm_ok=1
XM20 out buf_out_2 net7 gd sg13_hv_nmos w=4u l=0.45u ng=1 m=4 mm_ok=1
XM21 net7 buf_out_2 gd gd sg13_hv_nmos w=4u l=0.45u ng=1 m=4 mm_ok=1
.ends

.GLOBAL GND
.end
